US07790770B2
At 0° C. to a solution of 3-(4-bromophenyl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)propanoic acid (1.59 g, 2.64 mmol) in acetone (30 mL) was added TEA (442 μL, 3.17 mmol) followed by ethyl chloroformate (303 μL, 3.17 mmol). The reaction mixture was stirred at 0° C. for 45 min and NaN3 (343 mg, 5.28 mmol) was added. The reaction was stirred at 0° C. for 1 h, quenched by the addition of water and the aqueous layer was extracted with toluene (3×30 mL). The combined organic layers were washed with sat. NaCl, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was diluted with toluene (10 mL) and heated at 90° C. for 6 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in t-BuOH/THF (1:1, 20 mL) and treated with t-BuOK/t-BuOH (1 N, 13.2 mL, 13.2 mmol). The reaction mixture was stirred at rt overnight, then heated at 85° C. for 3 h. The reaction mixture was quenched by the addition of water and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with sat. NaCl, dried over magnesium sulfate, filtered and concentrated. The residue was purified by ISCO (40 g siligel column, 0-40% EtOAc/hexane over 40 min to yield 2-(4-bromophenyl)-1-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethanamine as a colorless oil (1.2 g, 82% yield). LCMS: RT=1.82 min [M+H] 556.8 (Phenomenex Luna C18 4.6×30 mm column, eluting with 10-90% MeOH/H2O containing 0.1% TFA, 2 min gradient, flow rate 5 mL/min, wavelength 220 nm). 1H NMR (400 MHz, CDCl3) δ ppm 7.61 (1H, d, J=6.15 Hz), 7.48-7.53 (1H, m), 7.30 (1H, d, J=7.91 Hz), 7.15 (1H, t, J=9.23 Hz), 6.96-7.00 (2H, m), 6.89 (1H, d, J=8.79 Hz), 6.61 (2H, d, J=7.91 Hz), 5.89 (1H, t, J=53 Hz), 3.49 (1H, d, J=13.6 Hz), 3.43 (1H, d, J=13.6 Hz), 1.50-1.65 (2H, m).

reactant | 3-(4-bromophenyl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)propanoic acid | 2.64 mmol, 1.59 g | BrC1=CC=C(C=C1)CC(C(=O)O)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)C(F)(F)F | C24H14BrF9O3
reactant | ethyl chloroformate | 3.17 mmol, 303 μL | ClC(=O)OCC | C3H5ClO2
reactant | NaN3 | 5.28 mmol, 343 mg | [N-]=[N+]=[N-].[Na+]
reactant | t-BuOK t-BuOH | 13.2 mmol, 1 N, 13.2 mL | CC(C)(C)[O-].[K+].CC(C)(C)O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 2-(4-bromophenyl)-1-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethanamine | 1.2 g, 82% yield | BrC1=CC=C(C=C1)CC(N)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)C(F)(F)F | C23H15BrF9NO
